US07244725B2
A.2. 6-Ethyl-2,3-dihydroquinolin-4(1H)-one
A solution of phosphorus pentoxide (19.53 g) in methane sulfonic acid (200 mL) was heated to 130° C. The mixture was stirred at 130° C. for one hour until all the phosphorus pentoxide had dissolved. The mixuture was allowed to cool for 15 minutes and ethyl N-(4-ethylphenyl)-beta-alaninate (19.53 g of mono and di-ester mixture) was added. The mixture was heated to 130° C. for one hour and allowed to slowly cool overnight. The mixture was then cooled in an ice bath and 10N sodium hydroxide was added until the pH reached 9.5. Ethyl acetate was added to the mixture to help dissolve solids. The remaining gummy dark solids were dissolved in methanol and added to the ethyl acetate-aq. sodium hydroxide mixture. Semi-crystalline solids precipitated and were removed by filtration through Celite. The filtrate was washed with water, followed by 1N sodium hydroxide and brine, dried with magnesium sulfate, filtered, and concentrated. Silica gel chromatography using 0.25% ammonium hydroxide in dichloromethane gave mixed fractions. The mixed fractions were combined and re-chromatographed using 30% ethyl acetate in heptane. The resulting material was further upgraded by formation of the hydrochloride salt using 2N HCl in ether. The salt was collected by filtration and washed with heptane and dried in an oven under vacuum at 50° C. overnight. The salt was then partitioned between dichloromethane and 1N sodium hydroxide. The organic layer was extracted twice with dichloromethane, washed with 1N sodium hydroxide, dried with sodium sulfate, filtered, and concentrated to give 3.83 g of the title compound. MS (ESI+) for C11H13NO m/z 175.96 (M+H)+.

reactant | phosphorus pentoxide | 19.53 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | ethyl N-(4-ethylphenyl)-beta-alaninate | 19.53 g | C(C)C1=CC=C(C=C1)NCCC(=O)OCC | C13H19NO2
reactant | sodium hydroxide | 10N | [OH-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methane sulfonic acid | 200 mL | CS(=O)(=O)O | CH4O3S
solvent | methanol | CO | CH4O
product | 6-Ethyl-2,3-dihydroquinolin-4(1H)-one | 3.83 g | C(C)C=1C=C2C(CCNC2=CC1)=O | C11H13NO
